US05091533
To a stirring solution of methyl 2-(4-hydroxyphenyl)-2-methylpropionate (0.81 g; 4.19 mmol) in dry diemthylformamide (8 mL) was added sodium hydride (192 mg, 4 mmol) as a 50% dispersion in oil. The mixture was stirred at room temperature for 30 minutes. A solution of 6-(3-bromopropyl)-5-benzyloxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran, E88, in dry dimethylformamide (2 mL) was added. The resulting mixture was stirred at room temperature for 20 hours. The mixture was poured into cold dilute HCl (1N, 25 mL) and extracted twice with ethylacetate (50 mL). The combined organic extracts were washed with 1N HCl (25 ml×2) and brine (25 mL), dried (Na2SO4) and concentrated in vacuo. The residue was chromatographed on silica gel to give 500 mg (87% yield) methyl-2-[4-[3-[2,3-dihydro-5-benzyloxy-2-(2-phenylethyl)benzofuran-6-yl]propoxy]phenyl]- 2-methylpropanoate, E42.

reactant | methyl 2-(4-hydroxyphenyl)-2-methylpropionate | 4.19 mmol, 0.81 g | OC1=CC=C(C=C1)C(C(=O)OC)(C)C | C11H14O3
reactant | sodium hydride | 4 mmol, 192 mg | [H-].[Na+]
reactant | 6-(3-bromopropyl)-5-benzyloxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran | BrCCCC1=CC2=C(CC(O2)CCC2=CC=CC=C2)C=C1OCC1=CC=CC=C1 | C26H27BrO2
reactant | HCl | 1N, 25 mL | Cl | ClH
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | methyl-2-[4-[3-[2,3-dihydro-5-benzyloxy-2-(2-phenylethyl)benzofuran-6-yl]propoxy]phenyl]- 2-methylpropanoate | 500 mg, 87% yield | COC(C(C)(C)C1=CC=C(C=C1)OCCCC1=CC2=C(CC(O2)CCC2=CC=CC=C2)C=C1OCC1=CC=CC=C1)=O | C37H40O5
